* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
* 4-terminal Vertical Parallel Plate Capacitor /w LI-M4 fingers and M5 Shield
* High Density 3-terminal Vertical Parallel Plate Capacitor
* Layout: sky130_fd_pr__cap_vpp_02p7x06p1_m1m2m3m4_shieldl1_fingercap
.subckt  sky130_fd_pr__cap_vpp_02p7x06p1_m1m2m3m4_shieldl1_fingercap c0 c1 b
+ 
.param  mult = 1.0
+ 
+ ctot_a = {12.13e-15*sky130_fd_pr__model__cap_vpp_finger__cor+0.0283/sqrt(mult*2*6.1*2.7)*12.13e-15*sky130_fd_pr__model__cap_vpp_finger__cor*sky130_fd_pr__model__cap_vpp_only_p__slope}
+ c0_sub = {0.998e-15*cli2s_vpp}
+ c1_sub = {0.701e-15*cli2s_vpp}
+ rat_m4 = 0.125
+ rat_m3 = 0.125
+ rat_m2 = 0.375
+ rat_m1 = 0.375
+ cap_m4 = {rat_m4*ctot_a}
+ cap_m3 = {rat_m3*ctot_a}
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ lm1 = {6.1-0.96}
+ lm2 = {6.1-0.96}
+ lm3 = {6.1-0.96}
+ lm4 = {6.1-0.96}
+ wm1 = 0.160
+ wm2 = 0.160
+ wm3 = 0.300
+ wm4 = 0.300
+ nfm1 = 9.0
+ nfm2 = 9.0
+ nfm3 = 5.0
+ nfm4 = 5.0
+ nvia3 = 5.0
+ nvia2 = 5.0
+ nvia = 5.0
ccmvpp_hd5_atlas_fingercap_l5 a2 a1  c = {cap_m4}
rsm4 a0 a2 r = {rm4*lm4/wm4*(1/3)*(1/nfm4)}
rvia3_0 a0 b0 r = {rcvia3/nvia3}
rvia3_1 a1 b1 r = {rcvia3/nvia3}
rsm3 b0 b2 r = {rm3*lm3/wm3*(1/3)*(1/nfm3)}
cm3 b2 b1 c = {cap_m3}
rvia2_0 b0 c0 r = {rcvia2/nvia2}
rvia2_1 b1 c1 r = {rcvia2/nvia2}
rsm2 c0 c2 r = {(rm2*lm2/wm2*(1/3)*(1/nfm2)+rm2*lm2/wm2)}
cm2 c2 c1 c = {cap_m2}
rvia_0 c0 d0 r = {rcvia/nvia}
rvia_1 c1 d1 r = {rcvia/nvia}
rsm1 d0 d2 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 d2 d1 c = {cap_m1}
cm12b_0 d0 b c = {c0_sub}
cm12b_1 d1 b c = {c1_sub}
.ends sky130_fd_pr__cap_vpp_02p7x06p1_m1m2m3m4_shieldl1_fingercap
